US07253158B2
{1-[Allyl-(2,4-dimethoxy-benzyl)-carbamoyl]-2,2-dimethyl-but-3-enyl}-carbamic acid tert-butyl ester (0.5 g, 1.16 mmol) was dissolved in dichloromethane (400 ml), bis(tricyclohexylphosphine)benzylidine ruthenium dichloride (145 mg, 0.17 mmol) was added and the purple solution was refluxed for 48 hours. The solvent was evaporated, the residue was dissolved in ethyl acetate and washed with NaHCO3 solution, 1M KHSO4 solution and brine. After drying with magnesiumsulfate the organic layer was concentrated and purified by flash chromatography (heptane/ethyl acetate=4:1) to yield 295 mg (63%) of [1-(2,4-dimethoxy-benzyl)-4,4-dimethyl-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]-carbamic acid tert-butyl ester; MS: m/e=405.5 (MH+).

reactant | {1-[Allyl-(2,4-dimethoxy-benzyl)-carbamoyl]-2,2-dimethyl-but-3-enyl}-carbamic acid tert-butyl ester | 1.16 mmol, 0.5 g | C(C)(C)(C)OC(NC(C(C=C)(C)C)C(N(CC1=C(C=C(C=C1)OC)OC)CC=C)=O)=O | C24H36N2O5
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | [1-(2,4-dimethoxy-benzyl)-4,4-dimethyl-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]-carbamic acid tert-butyl ester | 295 mg, 63% | C(C)(C)(C)OC(NC1C(N(CC=CC1(C)C)CC1=C(C=C(C=C1)OC)OC)=O)=O | C22H32N2O5
